US04000196
A 100 ml. solution of hydroxylamine generated from hydroxylamine hydrochloride (5.86 g., 0.088 mol) and potassium hydroxide (4.59 g., 0.088 mol) was cooled to 0°. To this was added a 25 ml. methanol solution of S-methyl-N-benzyl-N,N'-dimethylisothiourea (3.53 g., 0.017 mol) over a 10 minute period. The mixture was allowed to stir for 4 hours. Methanol was then removed by evaporation and the residue redissolved in methylene chloride. After two washes with 100 ml. quantities of water, the organic layer was extracted with 20 ml. 1N hydrochloric acid. The aqueous layer was then made basic to pH 9 and extracted with methylene chloride. The organic layer was dried, evaporated, and resulted in 0.100 g. of an oil. The oil was separated into its components using high pressure liquid chromatography and 40 mg. (1.2% yield) of pure 1-benzyl-1,3-dimethyl-2-hydroxyguanidine was isolated. It had thin layer chromatographic and NMR properties identical to those of an authentic sample.

reactant | hydroxylamine | NO | H3NO
reactant | hydroxylamine hydrochloride | 0.088 mol, 5.86 g | Cl.NO
reactant | potassium hydroxide | 0.088 mol, 4.59 g | [OH-].[K+]
reactant | S-methyl-N-benzyl-N,N'-dimethylisothiourea | 0.017 mol, 3.53 g | CSC(N(C)CC1=CC=CC=C1)=NC | C11H16N2S
solvent | methanol | CO | CH4O
product | 1-benzyl-1,3-dimethyl-2-hydroxyguanidine | 1.2% yield | C(C1=CC=CC=C1)N(C(=NO)NC)C | C10H15N3O
